US05962659
(S)-5,5-dimethyl-4-(triethylsilyloxy)-1-hexyne
A mixture of (S)-5,5-dimethyl-1-hexyn-4-ol (1.96 g 16 mmol), triethylamine (4.5 ml, 32 mmol) and dry dichloromethane (30 ml) was cooled to 0° C. under a nitrogen atmosphere. Triethylsilyl trifluoromethanesulphonate (5.4 ml, 24 mmol) was slowly added and the mixture stirred at 0° C. for a further 40 min. The mixture was treated with saturated sodium bicarbonate solution (60 ml) and the organic layer separated. The aqueous layer was extracted with dichloromethane (3×20 ml) and the combined dichloromethane extracts dried (MgSO4) and evaporated. The residue was purified by column chromatorgaphy (silica eluted with Petroleum ether 40-60°) to yield the title compound 3.55 g (95%).

reactant | (S)-5,5-dimethyl-1-hexyn-4-ol | 16 mmol, 1.96 g | CC([C@H](CC#C)O)(C)C | C8H14O
reactant | triethylamine | 32 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | Triethylsilyl trifluoromethanesulphonate | 24 mmol, 5.4 ml | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-5,5-dimethyl-4-(triethylsilyloxy)-1-hexyne | 3.55 g, 95% | CC([C@H](CC#C)O[Si](CC)(CC)CC)(C)C | C14H28OSi
